data/oMe_Silver.jsonl
{"reaction_id": "NR-148_1-C_2-CC_3-c1ccccc1_4-CCCC(C)C_5-c1ccccc1_6-C(F)(F)F","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(CC)c1ccccc1)(C)O[Si](CCCC(C)C)(CCCC(C)C)(CCCC(C)C)","C(=O)(c1ccccc1)(C(F)(F)F)"],"products_smiles": ["CC(=O)C(CC)(c1ccccc1)C(O)(c1ccccc1)(C(F)(F)F)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](CCCC(C)C)(CCCC(C)C)(CCCC(C)C))(c1ccccc1)(C(F)(F)F)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(=O)C(CC)(c1ccccc1)C(O[Si](CCCC(C)C)(CCCC(C)C)(CCCC(C)C))(c1ccccc1)(C(F)(F)F)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(=O)C(CC)(c1ccccc1)C(O)(c1ccccc1)(C(F)(F)F)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
{"reaction_id": "NR-206_1-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Norrish Reaction","reactants_smiles": ["O=C(C)Cc1ccc(C(F)(F)F)cc1"],"products_smiles": ["c1ccc(C(F)(F)F)cc1CC=C"],"conditions": "hv","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[CH3]C=O.[CH2]C(c1ccc(C(F)(F)F)cc1)","step_weight": 0,"rationale": "UV light excites the carbonyl to a singlet or triplet state, weakening the α C–C bond via n→π* excitation, enabling homolytic cleavage to yield stabilized acyl and alkyl radicals."},{"step": 2,"type": "radical","subtype": "radical_termination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C=C","step_weight": 0,"rationale": "The alkyl radical undergoes β-scission or recombination, forming a C=C bond; radical termination is favored due to the stability of the conjugated alkene and the absence of further radical sources."}],"description": "Under UV irradiation, the carbonyl absorbs light and undergoes α-cleavage (Norrish Type I), generating radical fragments. These radicals then recombine or rearrange to form the alkene product, driven by radical stability and relief of electronic strain."}
